US06528528B2
4-Methoxy-3-[3-(4-nitrophenyl)-thioureido]-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.976 g, 4.02 mmol) and 4-nitrophenyl isothiocyanate (0.723 g, 4.02 mmol) to afford the product (1.39 g) after trituration in ether; m.p. 183-184° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.02 mmol, 0.976 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 4-nitrophenyl isothiocyanate | 4.02 mmol, 0.723 g | [N+](=O)([O-])C1=CC=C(C=C1)N=C=S | C7H4N2O2S
solvent | ether | CCOCC | C4H10O
product | 4-Methoxy-3-[3-(4-nitrophenyl)-thioureido]-N-phenyl-benzamide | 1.39 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC1=CC=C(C=C1)[N+](=O)[O-] | C21H18N4O4S
